* C:\Users\grein\Desktop\EIV\e4-tp1\TP1 - copia\punto1.asc
V2 N001 0 50
Q1 N001 N003 N005 0 BC337-25
Q4 0 N003 N005 0 BC557B
M1 Vdrain Vgate 0 0 IRF530
R1 Vgate N005 100
R2 N003 N004 1k
R3 N001 N002 150
L1 N002 Vdrain 220µ
V1 N004 0 PULSE(0 15 1n 0.1n 0.1n 20u 40u)
D1 Vdrain N001 D
.model D D
.lib C:\Users\grein\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\grein\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\grein\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1m 0 1n
.backanno
.end
