* C:\Users\grein\Desktop\EIV\e4-tp1\Simulación\Punto 1\punto1.asc
V2 N001 0 50
Q1 N001 N004 N006 0 BC337-25
Q4 0 N004 N006 0 BC557B
M1 Vdrain Vgate 0 0 IRF530
R1 Vgate N006 100
R3 N004 N005 1k
R2 N001 N003 15
D1 Vdrain N001 MUR460
L1 N003 Vdrain 220µ
V1 N005 0 PULSE(0 15 1n 0.1n 0.1n {d/f} {1/f})
R4 N002 P001 15
L2 P001 0 220µ
V3 N002 0 PULSE(0 50 1n 0.1n 0.1n {d/f} {1/f})
.model D D
.lib C:\Users\grein\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\grein\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\grein\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 500u 0 1n
.param f=50k d=0.5
.backanno
.end
